US04891298
In a 1-neck 500 ml flask topped with a reflux condenser 250 ml of acetic acid, 50 ml of conc. hydrochloric acid and 50 ml of water were mixed together. To this mixture was added 27.7 g (0.0846 mole) of 3-carboxymethyl-3methyl-1,2,3,4-tetrahydro-4-phenanthron and the reaction mixture was refluxed for 31/2 hours under nitrogen. The mixture was diluted with 300 ml water and cooled in the refrigerator overnight. Next morning offwhite solids were collected by filtration, washed with water and dried under vacuum to give 16.9 g (95.02% by weight yield) of 3-methyl-1,2,3,4-tetrahydro-4-phenanthrone as an off-white solid. M.P. 61°-63° C.; M/e 211; λmax 309 (6,970) methanol.

reactant | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | 3-carboxymethyl-3methyl-1,2,3,4-tetrahydro-4-phenanthron | 0.0846 mole, 27.7 g | C(=O)(O)CC1(CCC=2C=CC3=CC=CC=C3C2C1=O)C | C17H16O3
solvent | water | 300 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 3-methyl-1,2,3,4-tetrahydro-4-phenanthrone | 16.9 g | CC1CCC=2C=CC3=CC=CC=C3C2C1=O | C15H14O
